US07612114B2
2-Bromo-1-(3,3-dimethylpiperidin-1-yl)ethanone
To a solution of 3,3-dimethylpiperidine (250 mg) in dichloromethane (3 ml) was added an aqueous solution of 5N sodium hydroxide (1.1 ml), bromoacetyl chloride (0.2 ml) was added dropwise thereto on an ice bath, and the solution was stirred for 1 hour at room temperature. The solution was extracted with diethyl ether, then sequentially washed with an aqueous solution of 10% citric acid and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo to provide the title compound (420 mg).

reactant | 3,3-dimethylpiperidine | 250 mg | CC1(CNCCC1)C | C7H15N
reactant | sodium hydroxide | 5N, 1.1 ml | [OH-].[Na+]
reactant | bromoacetyl chloride | 0.2 ml | BrCC(=O)Cl | C2H2BrClO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-Bromo-1-(3,3-dimethylpiperidin-1-yl)ethanone | 420 mg | BrCC(=O)N1CC(CCC1)(C)C | C9H16BrNO
